US07714161B2
22. Preparation of 3,5-diacetoxy-4′-fluorostilbene
A 25 mL round bottom flask was charged with p-xylene (10 mL), Pd(OAc)2 (11.3 mg, 0.05 mmol), 1,3-bis-(2,6-diisopropylphenyl) imidazolinium chloride (21.4 mg, 0.05 mmol), 3,5-diacetoxybenzoyl chloride (1.28 g, 5 mmol), 4-fluorostyrene (0.73 g, 6 mmol), and N-methyl morpholine (0.69 g, 6 mmol). The mixture was stirred at 120° C. for 3.5 h under nitrogen atmosphere. Then it was cooled to room temperature and EtOAc was added and filtered. The filtrate was washed with brine and dried over Na2SO4. Then it was filtered and purified via flash chromatography and gave the product (1.15 g, 73%) as white solid. Data are: 1H NMR (CDCl3, 300 MHz) δ7.45 (dd, 2H), 7.11-6.91 (m, 6H), 6.82 (t, J=1.95 Hz, 1H).

reactant | p-xylene | 10 mL | CC=1C=CC(=CC1)C | C8H10
reactant | 3,5-diacetoxybenzoyl chloride | 5 mmol, 1.28 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=C(C1)OC(C)=O | C11H9ClO5
reactant | 4-fluorostyrene | 6 mmol, 0.73 g | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | N-methyl morpholine | 6 mmol, 0.69 g | CN1CCOCC1 | C5H11NO
catalyst | Pd(OAc)2 | 0.05 mmol, 11.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,3-bis-(2,6-diisopropylphenyl) imidazolinium chloride | 0.05 mmol, 21.4 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,5-diacetoxy-4′-fluorostilbene | 1.15 g, 73% | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C=CC1=CC=C(C=C1)F | C18H15FO4
